US05112828
Preparation of the starting compound 2-(4-Chlorobenzyl)-2-ethylbutanal
300 ml of toluene, 400 ml of 30 percent (by weight) sodium hydroxide solution and 5.0 g of tetra-n-butylammonium iodide are heated at 80° C. while stirring. To this is slowly added dropwise a mixture of 110 g (1.10 mol) of 2-ethylbutanal and 161 g (1.00 mol) of 4-chlorobenzyl chloride. The mixture is then stirred at 80° C. for 4 h and at room temperature for 14 h, 1,000 ml of toluene are added, and the phases are separated. The organic phase is washed with water, dried over Na2SO4 and concentrated. Fractional distillation results in 123 g (54% of theory) of 2-(4-chlorobenzyl)-2-ethylbutanal as a colorless liquid of boiling point 146°-148° C. at 1 mbar.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-ethylbutanal | 1.10 mol, 110 g | C(C)C(C=O)CC | C6H12O
reactant | 4-chlorobenzyl chloride | 1.00 mol, 161 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
catalyst | tetra-n-butylammonium iodide | 5.0 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 1,000 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Chlorobenzyl)-2-ethylbutanal | ClC1=CC=C(CC(C=O)(CC)CC)C=C1 | C13H17ClO
